US08623889B2
Step 2: 1-(5-chloro-2-fluorophenyl)propan-1-one
A mixture of 1-(5-chloro-2-fluorophenyl)propan-1-ol (850 mg, 4.5 mmol) and pyridinium chlorochromate (1.7 g, 7.9 mmol) in methylene chloride (30 mL) was stirred at room temperature for 3 hours. The reaction mixture was diluted with methylene chloride (20 mL), filtered over Celite, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g, ISCO, 0-30% ethyl acetate in heptane) to afford the title compound as a pale yellow oil (550 mg, 65%). 1H NMR (400 MHz, CDCl3) δ 7.38 (dd, J=8.8, 4.8 Hz, 1H), 7.16 (dd, J=8.3, 3.0 Hz, 1H), 7.09 (ddd, J=8.8, 7.7, 3.0 Hz, 1H), 2.95 (q, J=7.2 Hz, 2H), 1.21 (t, J=7.2 Hz, 3H).

reactant | 1-(5-chloro-2-fluorophenyl)propan-1-ol | 4.5 mmol, 850 mg | ClC=1C=CC(=C(C1)C(CC)O)F | C9H10ClFO
reactant | pyridinium chlorochromate | 7.9 mmol, 1.7 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-chloro-2-fluorophenyl)propan-1-one | 550 mg, 65% | ClC=1C=CC(=C(C1)C(CC)=O)F | C9H8ClFO
